US05672697
3'-O,N3 -Dibenzylthymidine (12)
To a stirred solution of 2.18 g of 5'-O-(4,4'-dimethoxytrityl)-thymidine (4.00 mmol) in 52 mL of dry DMF was carefully added 2.00 g of a 60% oil dispersion of NaH. The reaction was stirred at room temperature for 5 min. To the mixture was added 4.77 mL (40.1 mmol, 10.0 equiv.) of benzyl bromide dropwise, over several minutes. After 1 h, the reaction was cooled on an ice-water bath. Then, 12 mL of sat. aq. NaHCO3 was carefully added (vigorous hydrogen gas evolution) dropwise, over several minutes. The mixture was stirred for 10 min, and then concentrated. The residue was then stirred in 100 mL of 80% aq. HOAc at room temperature for 1.5 h, and then concentrated. The crude residue was partitioned between CH2 Cl2 and H2O, shaken, and separated. The organic layer was washed with sat. aq. NaHCO3, H2O, and then dried. The crude product was purified by flash chromatography on a 50 mm column using two column volumes of CH2Cl2, two column volumes of 1% MeOH in CH2Cl2, and then 2.5% MeOH in CH2Cl2 as eluents. This afforded 1.49 g of product (88.2% yield) as a colorless solid.

reactant | 5'-O-(4,4'-dimethoxytrityl)-thymidine | 4.00 mmol, 2.18 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C31H32N2O7
reactant | NaH | [H-].[Na+]
reactant | benzyl bromide | 40.1 mmol, 4.77 mL, 10.0 equiv. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | 12 mL | C(=O)(O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | DMF | 52 mL | CN(C)C=O | C3H7NO
product | 3'-O,N3 -Dibenzylthymidine | 1.49 g, 88.2% yield | C(C1=CC=CC=C1)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)N(C(=O)C(C)=C1)CC1=CC=CC=C1 | C24H26N2O5
